US05510366
(1) 2-Benzylamino-4-methoxy-1-methylbenzene
20.3 g (0.520 mol) of sodium amide was added to 140 g (1.31 mol) of benzylamine under an argon atmosphere. After stirring under cooling with ice for 20 minutes, a solution of 34.84 g (0.129 mol) of 3-bromo-4-methoxytoluene dissolved in 220 ml of tetrahydrofuran was added dropwise over 90 minutes. The reaction mixture was heated to 60° C. and stirred for 60 minutes. Methanol was added under cooling with ice, followed by further addition of ice water. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized (chloroform-n-hexane) to obtain 26.96 g (yield, 68.4%) of colorless needles of the title compound.

reactant | sodium amide | 0.520 mol, 20.3 g | [NH2-].[Na+]
reactant | benzylamine | 1.31 mol, 140 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-bromo-4-methoxytoluene | 0.129 mol, 34.84 g | BrC=1C=C(C=CC1OC)C | C8H9BrO
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | 2-Benzylamino-4-methoxy-1-methylbenzene | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)OC)C | C15H17NO
